Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel / 
oxycodone / Dilaudid / Macrobid
 
Attending: ___.
 
Chief Complaint:
Weakness
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is a ___ year-old lady with a history of 
metastatic
ovarian cancer on C3 of carboplatin recently admitted for
abdominal pain ___ who presents with weakness. 

Of note she was recently admitted for abdominal pain. She began
feeling week a couple days ago and today her abdominal pain get
somewhat worse so she decided to come to the ED. 

 
ED initial vitals were  97.9 78 161/81 18 100% RA 
Prior to transfer vitals were 97.7 71 119/80 24 100% RA 

ED work-up significant for:
-CBC: 4.2 > 5.5 < 99
-Chemistry: 138/4.0 | 101/22 | ___
-LFTs: 32/44 | 144/0.2
-UA: 5WBC

ED management significant for:
-Medications: 1L NS, 1U PRBC

On arrival to the floor, patient reports feeling left-sided 
chest
pressure after transfusion. She denies shortness of breath or
upper airway pressure. Her abdominal pain is improved in spite 
of
no management. 

Patient denies fevers/chills, night sweats, headache, vision
changes, dizziness/lightheadedness, numbnesss, shortness of
breath, cough, hemoptysis, palpitations, abdominal pain,
nausea/vomiting, diarrhea, hematemesis, hematochezia/melena,
dysuria, hematuria, and new rashes. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY (Per OMR, reviewed): 
- ___ presented at ___ with acute RLQ 
abdominal pain. CT notable for 6.3 cm right ovarian cyst.
- ___ right ovarian laparoscopic cystectomy, 6-7 cm cyst 
removed with intra-operative rupture, by report there was no 
ovarian surface involvement by tumor. ___ path review: high 
grade serous carcinoma.
- ___ CA 125 (Quest) 93
- ___ to OR (___) laparoscopy converted to laparotomy 
with TAH/BSO, pelvic tumor resection, total pelvic 
lymphadenectomy, para-aortic LN resection, infracolic 
omemtectomy, peritoneal biopsies: ovarian serous carcinoma, no 
positive LNs, right pelvic sidewall positive for carcinoma, 
grade 3, with positive washings, thus staged as IIc.
- ___ C1D1 ___ taxol complicated by taxol reaction
- ___ ___ x 6 cycles
- ___ BRCA negative
- ___ rising CA125
- ___ CT scan shows disease recurrence- seen by Dr. ___ 
___ possible surgical resection
- ___ Diagnostic laparoscopy, resection of pelvic nodule.
- ___- C1D1 Carboplatin AUC 4 every 4 weeks
- ___- Carboplatin changed to Q5 weeks due to 
thrombocytopenia
- ___ C4D1 
- ___ Type and Screen revealed Anti-C antibody
- ___ CT torso- no evidence of local recurrent or 
metastatic disease within the abdomen or pelvis. Stable left 
pelvic sidewall nodule and adjacent external iliac lymphocele. 
Given treatment break.
- ___  Percutaneous pinning left femoral neck
- ___ slight rise in CA125 from 16 to 22. 
- ___ Start C1 Carboplatin AUC 5- c/b chest pain- sent to ED 

with negative cardiac w/u
- ___ C2 Carboplatin 
- ___ C3 HELD d/t thrombocytopenia
- C3D1 ___ ___

PAST MEDICAL HISTORY (Per OMR, reviewed):  

- Developmental delay with learning disability attributed to 
childhood viral encephalitis
- Depression
- Headaches
- Raynaud's disease
- Undifferentiated connective tissue disorder
- IBS
 
Social History:
___
Family History:
FH:
No cancer in first degree relatives. 

 (per OMR):
- paternal grand-aunt with breast ca in her ___
- maternal great-uncle with colon ca
- paternal great grandmother with ovarian ca
 
Physical Exam:
Admission Exam:
=====================
VS: 98.2 PO 140 / 90 74 16 98 RA 
GENERAL: Well-appearing lady, in no distress lying in bed
comfortably.
HEENT: Anicteric, PERLL, Mucous membranes moist, oropharynx
clear.
CARDIAC: Regular rate and rhythm, no murmurs, rubs or gallops.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Non-distended, normal bowel sounds, soft, non-tender, no
guarding, no palpable masses, no organomegaly.
EXT: Warm, well perfused. No lower extremity edema. No erythema
or tenderness.
NEURO: Alert and oriented, good attention,  linear thought
process. CN II-XII intact. Strength full throughout. Sensation 
to
light touch intact.
SKIN: No significant rashes. Right chest port without erythema,
secretion, tenderness.

Discharge Exam:
====================
VITALS: 98.4 PO 104 / 70 87 18 97 RA  
GENERAL: Lying in bed comfortably, NAD, AOX3 
HEENT: EOMI, PERRLA, Oropharynx clear, MMM
CV: RRR, no r/m/g 
RESP: CTAB 
GI: +BS, soft, non-distended, generalized mild tenderness 
GU: no foley 
MSK: no ___ edema, wwp
NEURO: CN II-XII intact, ___ strength bilateral upper and lower
extremities, intact sensation in all extremities
 
Pertinent Results:
Admission Labs:
====================
___ 07:55PM BLOOD WBC-4.2 RBC-1.97*# Hgb-5.5*# Hct-17.1*# 
MCV-87 MCH-27.9 MCHC-32.2 RDW-19.9* RDWSD-59.8* Plt Ct-99*
___ 07:55PM BLOOD Neuts-59.0 ___ Monos-9.1 Eos-0.5* 
Baso-0.0 Im ___ AbsNeut-2.46 AbsLymp-1.28 AbsMono-0.38 
AbsEos-0.02* AbsBaso-0.00*
___ 07:55PM BLOOD Plt Ct-99*
___ 07:55PM BLOOD Glucose-96 UreaN-14 Creat-0.9 Na-138 
K-4.0 Cl-101 HCO3-22 AnGap-15
___ 07:55PM BLOOD ALT-44* AST-32 AlkPhos-144* TotBili-0.2
___ 07:55PM BLOOD Albumin-3.8 Calcium-9.0 Phos-3.4 Mg-1.6
___ 04:00AM BLOOD Hapto-129
___ 08:04PM BLOOD Lactate-1.1

Micro:
============
All urine and blood cultures were negative 

___ Knee x-ray
There is no fracture or focal osseous abnormality.  No 
degenerative changes
identified.  No suprapatellar effusion.

___ CXR
Compared to chest radiographs since ___ most recently ___.
Lungs clear.  Heart size top-normal.  Normal hilar and 
mediastinal contours and pleural surfaces.
Right supraclavicular central venous infusion catheter ends in 
the low SVC.

Discharge labs:
======================
___ 05:59AM BLOOD WBC-3.1* RBC-3.25* Hgb-9.1* Hct-28.9* 
MCV-89 MCH-28.0 MCHC-31.5* RDW-19.7* RDWSD-61.7* Plt Ct-69*
___ 05:59AM BLOOD Neuts-54.6 ___ Monos-9.0 Eos-1.0 
Baso-0.3 Im ___ AbsNeut-1.69 AbsLymp-1.07* AbsMono-0.28 
AbsEos-0.03* AbsBaso-0.01
___ 05:59AM BLOOD Glucose-92 UreaN-17 Creat-1.0 Na-142 
K-4.2 Cl-103 HCO3-28 AnGap-11
 
Brief Hospital Course:
Patient Summary:
=======================
Ms. ___ is a ___ year-old lady with a history of 
metastatic
ovarian cancer on C3 of carboplatin recently admitted for
abdominal pain ___ who presents with weakness and abdominal
pain and found to have anemia in ED. Anemia likely dilutional as 
hgb increased from 5.5- 9.1 with 1U PRBC. Abdominal pain in the 
setting of constipation and non-compliance with home bowel 
regimen. Opiate medications avoided during admission and pain 
treated with Tylenol/Naproxen. Patient had multiple bowel 
movements on day of discharge. 

#Abdominal pain: Fluctuating pain in the setting of 
non-compliance with home bowel medications. Discussed with 
outpatient provider regarding abdominal pain and preference to 
manage without opiate medications as her
pain is related to constipation and unlikely underlying
malignancy. Pain well managed with Tylenol and Naproxen. Bowel 
regimen increased from home regimen with Mgcitrate x2, miralax, 
and lactulose. Had loose BM on day of discharge. Discussed 
importance of taking bowel regimen at home to have 2 small soft 
BM daily. 

#Anemia: Acute without source of bleed. Likely dilutional in 
setting
of recent outpatient IVF as hgb increased to 9 from 5.5 after 1u 
PRBC. No
evidence of GI bleed given constipation. Hemolysis unlikely with
normal haptoglobin. H/H stable and 9.1 on discharge. 

#Weakness: Feels less week after the transfusion though 
generalized feeling of fatigue likely from protracted 
chemotherapy side effect vs. cancer related weakness/fatigue. 
Neuro exam non-focal. Ambulating well without ___. 

#Thrombocytopenia: Likely ___ chemotherapy. Did not require 
transfusion.

#Chest pain: Brief chest pain post-transfusion. EKG non-ischemic
with negative troponins and normal CXR. Remained asymptomatic 
during rest of hospitalization 

#Depression: Continued on duloxetine, amitryptiline, 
aripiprazole

#HTN: continued losartan

#Hypothyroidism: Continued levothyroxine

Transitional Issues:
========================
- Please avoid narcotic medications for pain as it likely causes 
constipation and abdominal pain
- Patient with consecutive admissions for abdominal pain related 
to constipation. Please ensure she is having 2 regular BM daily 
and increase bowel regimen as needed 

CODE: Full Code | presumed
#COMMUNICATION: Patient
#EMERGENCY CONTACT / HCP: Health care proxy chosen: Yes
Name of health care proxy: ___: Mother
Cell phone: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 
2. Amitriptyline 25 mg PO QHS 
3. ARIPiprazole 2 mg PO QHS 
4. DULoxetine 120 mg PO DAILY 
5. Estrogens Conjugated 1 gm VG 1X/WEEK (MO) 
6. Gabapentin 600 mg PO QHS 
7. Gabapentin 300 mg PO QAM 
8. Levothyroxine Sodium 50 mcg PO 6X/WEEK (___) 
9. Levothyroxine Sodium 100 mcg PO 1X/WEEK (___) 
10. LORazepam 0.5 mg PO QHS:PRN anxiety, insomnia 
11. Losartan Potassium 50 mg PO DAILY 
12. Omeprazole 40 mg PO DAILY 
13. Polyethylene Glycol 17 g PO BID 
14. Vitamin D ___ UNIT PO 1X/WEEK (MO) 
15. Bisacodyl ___AILY:PRN constipation 
16. Psyllium Powder 1 PKT PO DAILY 
17. Morphine Sulfate ___ 15 mg PO BID:PRN Pain - Severe 
18. Naproxen 500 mg PO Q12H:PRN Pain - Mild 
19. Ondansetron 8 mg PO Q12H:PRN nausea 
20. Prochlorperazine 10 mg PO Q12H:PRN nausea 
21. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1.  Senna 17.2 mg PO BID 
RX *sennosides [senna] 8.6 mg 2 tablets by mouth twice a day 
Disp #*60 Tablet Refills:*1 
2.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
3.  Amitriptyline 25 mg PO QHS  
4.  ARIPiprazole 2 mg PO QHS  
5.  Bisacodyl ___AILY:PRN constipation  
6.  Docusate Sodium 100 mg PO BID  
7.  DULoxetine 120 mg PO DAILY  
8.  Estrogens Conjugated 1 gm VG 1X/WEEK (MO)  
9.  Gabapentin 600 mg PO QHS  
10.  Gabapentin 300 mg PO QAM  
11.  Levothyroxine Sodium 50 mcg PO 6X/WEEK (___)  

12.  Levothyroxine Sodium 100 mcg PO 1X/WEEK (___)  
13.  LORazepam 0.5 mg PO QHS:PRN anxiety, insomnia  
14.  Losartan Potassium 50 mg PO DAILY  
15.  Naproxen 500 mg PO Q12H:PRN Pain - Mild  
16.  Omeprazole 40 mg PO DAILY  
17.  Ondansetron 8 mg PO Q12H:PRN nausea  
18.  Polyethylene Glycol 17 g PO BID  
19.  Prochlorperazine 10 mg PO Q12H:PRN nausea  
20.  Vitamin D ___ UNIT PO 1X/WEEK (MO)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Constipation related abdominal pain 
Anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
- You were admitted for abdominal pain, feeling weak, and 
concern for anemia 

WHAT HAPPENED IN THE HOSPITAL?
- You were given a unit of blood that improved feeling of 
fatigue
- Pain was thought to be related to constipation and treated 
with Tylenol and naproxen 
- You were given many different laxatives that helped you have a 
bowel movement. 

WHAT SHOULD YOU DO AT HOME?
- Continue taking ALL bowel medications every day to avoid 
becoming constipated. We ideally would want you to have 2 soft 
BM per day. 
- Avoid taking any opioid/narcotic medications for pain as it is 
likely worsening constipation and abdominal pain
- Follow up with all your appointment as below. 

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team

 
Followup Instructions:
___